US07157487B2
(Step 5) Methyl 3-benzyloxy-5-methoxy-4-nitrophenylacetate
Sodium hydride (918 mg, 23.0 mmol) was added to benzyl alcohol (30 ml) in portions. After vigorous evolution of a hydrogen gas stopped, a solution of 3-fluoro-5-methoxy-4-nitrophenylacetic acid (2.63 g, 11.5 mmol) in benzyl alcohol (20 ml) was added to the reaction mixture. After stirring at 50° C. for 15 hours, the reaction mixture was cooled. To the mixture was added 1N NaOH (100 ml), followed by extraction with ether (200 ml). After addition of 1N HCl to the water layer, the mixture was extracted with ether (2×200 ml). The extract was dried over anhydrous magnesium sulfate and then, distilled under reduced pressure to remove the solvent, whereby a pale yellow oil was obtained. Methanol (50 ml) and concentrated sulfuric acid (0.5 ml) were added to the resulting oil and the mixture was heated and refluxed for 4 hours under stirring. The reaction mixture was then cooled to room temperature. After addition of a saturated aqueous solution of sodium bicarbonate for neutralization, the mixture was extracted with chloroform (2×250 ml). The extract was dried over anhydrous magnesium sulfate and then distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform eluate solutions, the title compound (2.77 g, 61%) was obtained as a yellow oil.

reactant | Sodium hydride | 23.0 mmol, 918 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-fluoro-5-methoxy-4-nitrophenylacetic acid | 11.5 mmol, 2.63 g | FC=1C=C(C=C(C1[N+](=O)[O-])OC)CC(=O)O | C9H8FNO5
reactant | NaOH | 1N, 100 ml | [OH-].[Na+]
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | benzyl alcohol | 20 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | benzyl alcohol | 30 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | Methanol | 50 ml | CO | CH4O
product | Methyl 3-benzyloxy-5-methoxy-4-nitrophenylacetate | 2.77 g, 61% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1[N+](=O)[O-])OC)CC(=O)OC | C17H17NO6
